*****************************************************************
* NXP PSMN4R2-30MLD
*
* Polarity N-Channel
* Ratings 30V/4.300000E-003OHMS/70A
*
* Date Created Mon Jan 20 02:50:34 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R2-30MLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 0.981801357717194
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 0.791681348704628
RLS1 8 7 0.00024

RDS 7 4 24000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00263730930843561 TC=0.00490739180105973,4.13289957443709E-06
RBD 9 4 0.00117497608135488 TC=0.00490739180105973,4.13289957443709E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 9.8e-10
RG 1 2 0.476

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}

+ -1	558.237
+ -0.5	430.509
+ -0.2	373.466
+ -0.1	372.177
+ 0	341.67562
+ 0.1	302.23452
+ 0.2	301.782
+ 0.5	264.5682
+ 1	224.33492
+ 2	180.0136
+ 3	154.39116
+ 4	135.54776
+ 5	120.78856
+ 6	110.16648
+ 8	98.19948
+ 10	92.51643
+ 12	89.34966
+ 15	86.52571



.MODEL MINT NMOS(Vto=2.15 Kp=2.689581e+002 Nfs=330000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=4.36016826642151e-13
+ N=1 M=0.3 VJ=0.62 Fc=0.5 Cjo=1.97164456e-09 Tt=1.2768e-08)

.ENDS

